2111-03-09 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Broadly covered w/ Dapto, cefepime, flagyl. HD stable overnight. Renal
   consulted, no need for HD currently. Family meeting with
   ethics/palliative care/HCP pending.
   Allergies:
   Gabapentin
   Unknown;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Unknown;
   Meclizine
   Unknown;
   Olanzapine
   Unknown;
   Tobramycin
   Unknown;
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-3-8**] 12:00 AM
   Cefipime - [**2111-3-8**] 11:30 AM
   Daptomycin - [**2111-3-8**] 07:30 PM
   Metronidazole - [**2111-3-9**] 12:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-3-9**] 12:00 AM
   Fentanyl - [**2111-3-9**] 04:00 AM
   Dextrose 50% - [**2111-3-9**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-9**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 81 (77 - 120) bpm
   BP: 105/43(58) {71/43(31) - 119/67(78)} mmHg
   RR: 20 (0 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
             Total In:
                                                                  5,129 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                  4,089 mL
                                                                    340 mL
   Blood products:
                                                                  1,040 mL
   Total out:
                                                                    318 mL
                                                                      0 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,811 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Vent Dependant
   PIP: 29 cmH2O
   SpO2: 98%
   ABG: 7.29/37/51/19/-7
   Ve: 9.9 L/min
   PaO2 / FiO2: 85
   Physical Examination
   GEN: Appears comfortable, opening eyes to voice
   HEENT: NC/AT, sclerae anicteric
   PULM: Inspiratory rhonchi diffusely and bilaterally.
   CVS: Irregularly irregular, normal S1 + S2
   Abd: Soft/NT/ND. Normoactive BS
   Ext: No c./c/e
   Labs / Radiology
   71 K/uL
   9.0 g/dL
   46 mg/dL
   3.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   137 mg/dL
   101 mEq/L
   139 mEq/L
   25.8 %
   14.7 K/uL
        [image002.jpg]
                             [**2111-3-7**]  08:22 PM
                             [**2111-3-8**]  04:13 AM
                             [**2111-3-8**]  10:03 AM
                             [**2111-3-8**]  02:55 PM
                             [**2111-3-8**]  11:04 PM
                             [**2111-3-9**]  03:37 AM
   WBC
   15.6
   15.0
   16.5
   14.7
   Hct
   23.0
   22.4
   22.3
   26.2
   25.8
   Plt
   50
   64
   67
   71
   Cr
   3.2
   3.1
   3.1
   3.3
   TropT
   0.26
   0.27
   TCO2
   19
   Glucose
   78
   109
   46
   Other labs: PT / PTT / INR:21.1/51.9/2.0, CK / CKMB /
   Troponin-T:10//0.27, ALT / AST:13/11, Alk Phos / T Bili:110/0.3,
   Amylase / Lipase:/16, Fibrinogen:286 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:1.4 g/dL, LDH:179 IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:6.5
   mg/dL
   Assessment and Plan
   70 yom with TBI, CVA, s/p trach who was transferred from [**Hospital1 880**] with
   VAP, UTI, bacteremia, ARF.
   #  Sepsis:  Pt. has/had baceteremia, PNA, and UTI.  Pt. transferred on
   zosyn and aztreonam.  He had completed a 7 day course of vancomycin.
   Per OSH records now on Day 9 of Zosyn and Day 6 of aztreonam.
   Antibiotic regimen unclear, however seems like short duration of
   antibiotics to treat bacteremia.  CXR concerning for infiltrate v.
   fluid overload
   - continue vancomycin
   - ID consult to determine further antibiotics and duration
   - blood cultures
   - CXR
   - UA/Ucx
   - sputum culture
   # Respiratory Failure:  In terms of chronicity on ventilator, appears
   to be trached and vent dependent. Pt s/p 2 trach changes now with
   decreased leak around trach.  Pt. on CMV with FiO2 of 60%.  Respiratory
   failure likely due to PNA and sepsis.  ARF and fluid retention may also
   be contributing to this.  Fluid status in the setting of albumin <1 is
   difficult to treat.  Would not necessarily benefit from fluid resusc.
   [**Month (only) 51**] require dialysis
   - OSH records
   - Repeat CXR
   #  Acute Renal Failure:  Cr is 3.3 with baseline in low 2s.  Renal US
   at OSH showed small renal stone, no hydronephrosis.  Evaluated by renal
   at [**Hospital1 880**] and not thought to be a dialysis candidate.  As a result
   he was transferred here at request of his daughter.
   - urine lytes
   - UA/U Cx
   - follow up on renal consult
   # Atrial Fibrillation:  Appears to be in new A. Fib with HR of
   80s-90s.  Had been on metoprolol at rehab facility, however BP here
   will not tolerate beta blocker.  Possible triggers for A. Fib include
   CHF,
   - Could consider 5 mg (MRx 1) diltiazem if rapid A. Fib with fluid
   bolus
   - If SBP< 90, dig load v. amio
   # Anion Gap Metabolic Acidosis: Lactate had been normal at OSH.
   Possible etiologies include uremia and possible starvtion ketosis.
   - repeat lactate in am
   # Decubitus Ulcers:  Pt. has multiple decubiti which have been treated
   with aquacel.  Per OSH note, concern for R foot osteo, seen by podiatry
   and just kept on aquacel with bedside debridement. Was not considered
   an operative candidate.
   - wound care consult
   #  Gastroparesis/Vomiting:  Pt. was on TF at [**Hospital1 **], but experienced
   gastroparesis and abdominal distention at OSH. Per daughter, he did
   better when he was on Zofran as opposed to reglan in the past.  As a
   result he was started on TPN at OSH
   - J tube to gravity, check residuals
   - Nutrition consult for TPN recs
   - consider switch back to TF
   # Anemia:  Likely anemia of chronic disease.  No obvious source of
   bleeding, but pt. is coagulopathic with DIC picture.  Coffee grounds
   aspirated from NGT. Appropriate increase to 1unit blood.
   - Repeat Hct in am
   - Check DIC and hemolysis labs
   - PPI [**Hospital1 7**] IV
   # Thrombocytopenia/Coagulopathy:  Low platelets, elevated PT/PTT/INR.
   Possible DIC picture
   - as above follow up DIC labs
   - smear
   # Transaminitis:  According to OSH record, pt. had US on [**3-5**] showing
   GB wall thickening, sludge, and thickened distal CBD, however no
   further treatment was pursued due to lack of symptoms of cholangitis.
   - LFTs here are within normal limits - trend LFTs
   - consider repeat US if elevated
   # DM:
   - continue ISS, add glargine if uncontrolled
   #ectopy. Appears to have 11 beat run of VT on tele
   - if continues consider switch to neo
   - check PM lytes
   # Goals of Care:  Per OSH records, multiple attempts at family meetings
   to discuss goals of care have been made.  It has been felt by other
   providers and facilities that the patient has been suffering a great
   deal.  Renal team at [**Hospital1 880**] did not feel he was a dialysis
   candidate.  According to [**Hospital3 140**] records, they had attempted to
   include other family members in goals of care discussion, however his
   daughter would not allow this.  Thus, he has remained full code.
   - Palliative care/Ethics consult after discussion with daughter
   .
   # FEN: D51/2N @ 75 while not on TPN/TF, replete electrolytes, TPN
   # Prophylaxis: PPI, no heparin given low plt, pneumoboots
   # Access: L IJ placed [**2-26**] and replaced [**3-2**]
   # Communication: Patient's daughter, PCP is [**Last Name (NamePattern4) **]. [**Last Name (STitle) 14208**] [**Telephone/Fax (1) 14209**]
   # Code:  Full (discussed with daughter)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-3-7**] 08:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-03-10 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   echo - RV hpokinetic and dilated. LV fine without significant valvular
   damage. ID consult with recommendations for ciprofloxacin and
   vancomycin - give 1gm IV x1, follow level, then dose 1g for level <15.
   Renal consult with recommendation for no renal replacement therapy.
   Episode of BP of 78/34, concern for ectopy on levo so rather than
   increase this, changed to neo.
   Allergies:
   Gabapentin
   Unknown;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Unknown;
   Meclizine
   Unknown;
   Olanzapine
   Unknown;
   Tobramycin
   Unknown;
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2111-3-8**] 07:30 PM
   Cefipime - [**2111-3-9**] 12:00 PM
   Ciprofloxacin - [**2111-3-9**] 04:30 PM
   Vancomycin - [**2111-3-9**] 06:30 PM
   Metronidazole - [**2111-3-10**] 12:18 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2111-3-9**] 10:05 AM
   Pantoprazole (Protonix) - [**2111-3-10**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-10**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 86 (76 - 140) bpm
   BP: 102/40(55) {85/36(50) - 117/85(89)} mmHg
   RR: 23 (8 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,612 mL
                                                                    328 mL
   PO:
   TF:
   IVF:
                                                                  1,562 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,604 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 143
   PIP: 24 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 97%
   ABG: ///18/
   Ve: 6.8 L/min
   Physical Examination
   Gen: On vent, patient not responsive to verbal or painful stimuli.
   HEENT: NC/AT. Sclerae anicteric. PERRLA 3mm
   Pulm: Bilateral expiratory rhonchi diffusely
   CVS: RRR with normal s1 and s2
   Abd: Soft/NT/ND
   Ext: contracted; no c/c/e
   Neuro: patient not tracking, not responsive to stimuli
   Labs / Radiology
   26.0 %
   70 K/uL
   8.8 g/dL
   72 mg/dL
   3.5 mg/dL
   18 mEq/L
   3.7 mEq/L
   136 mg/dL
   100 mEq/L
   137 mEq/L
   17.3 K/uL
        [image002.jpg]
                             [**2111-3-7**]  08:22 PM
                             [**2111-3-8**]  04:13 AM
                             [**2111-3-8**]  10:03 AM
                             [**2111-3-8**]  02:55 PM
                             [**2111-3-8**]  11:04 PM
                             [**2111-3-9**]  03:37 AM
                             [**2111-3-9**]  04:25 PM
                             [**2111-3-10**]  03:22 AM
   WBC
   15.6
   15.0
   16.5
   14.7
   18.2
   17.3
   Hct
   23.0
   22.4
   22.3
   26.2
   25.8
   27.9
   26.0
   Plt
   50
   64
   67
   71
   70
   70
   Cr
   3.2
   3.1
   3.1
   3.3
   3.3
   3.5
   TropT
   0.26
   0.27
   TCO2
   19
   Glucose
   78
   109
   46
   59
   72
   Other labs: PT / PTT / INR:25.1/62.1/2.4, CK / CKMB /
   Troponin-T:10//0.27, ALT / AST:[**7-20**], Alk Phos / T Bili:109/0.3, Amylase
   / Lipase:/16, Differential-Neuts:86.5 %, Lymph:7.2 %, Mono:4.7 %,
   Eos:1.1 %, Fibrinogen:269 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.4
   g/dL, LDH:165 IU/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   70 yom with TBI, CVA, s/p trach who was transferred from [**Hospital1 880**] with
   VAP, UTI, bacteremia, ARF.
   #  Sepsis:  Pt. has/had baceteremia, PNA, and UTI.  Pt. transferred on
   zosyn and aztreonam.  He had completed a 7 day course of vancomycin.
   Per OSH records now on Day 9 of Zosyn and Day 6 of aztreonam.
   Antibiotic regimen unclear, however seems like short duration of
   antibiotics to treat bacteremia.  CXR concerning for infiltrate v.
   fluid overload.
   - continue vancomycin 1gm IV x 1, then dose 1gm IV for vancomycin level
   less than 15.
   - Check daily vancomycin level
   - Appreciate ID recommendations.
   - d/c daptomycin and start ciprofloxacin 200mg IV q 24 hours.
   - f/u blood cultures
   - CXR
   - f/u UA/Ucx
   - f/u sputum culture
   # Respiratory Failure:  In terms of chronicity on ventilator, appears
   to be trached and vent dependent. Pt s/p 2 trach changes now with
   decreased leak around trach.  Pt. on CMV with FiO2 of 60%.  Respiratory
   failure likely due to PNA and sepsis.  ARF and fluid retention may also
   be contributing to this.  Fluid status in the setting of albumin <1 is
   difficult to treat.  Would not necessarily benefit from fluid resusc.
   [**Month (only) 51**] require dialysis.
   - OSH records
   - Repeat CXR
   #  Acute Renal Failure:  Cr is 3.5 today with baseline in low 2s.
   Renal US at OSH showed small renal stone, no hydronephrosis.  Evaluated
   by renal at [**Hospital1 880**] and not thought to be a dialysis candidate.  As a
   result he was transferred here at request of his daughter. Renal
   service recommends no renal replacement therapy under any
   circumstances. UOP has trailed off to nothing today.
   - urine lytes
   - f/u UA/U Cx
   - Will define plan of care with patient/family
   # Atrial Fibrillation:  Appears to be in new A. Fib with HR of
   80s-90s.  Had been on metoprolol at rehab facility, however BP here
   will not tolerate beta blocker.  Possible triggers for A. Fib include
   CHF.  Currently in sinus rhythm.
   - Could consider 5 mg (MRx 1) diltiazem if rapid A. Fib with fluid
   bolus
   - If SBP< 90, dig load v. amio
   # Anion Gap Metabolic Acidosis: Lactate had been normal at OSH.
   Possible etiologies include uremia and possible starvtion ketosis.
   - repeat lactate in am
   # Decubitus Ulcers:  Pt. has multiple decubiti which have been treated
   with aquacel.  Per OSH note, concern for R foot osteo, seen by podiatry
   and just kept on aquacel with bedside debridement. Was not considered
   an operative candidate.
   - Continue with wound care consult recommendations
   #  Gastroparesis/Vomiting:  Pt. was on TF at [**Hospital1 **], but experienced
   gastroparesis and abdominal distention at OSH. Per daughter, he did
   better when he was on Zofran as opposed to reglan in the past.  As a
   result he was started on TPN at OSH
   - J tube to gravity, check residuals
   - Nutrition consult for TPN recs
   - consider switch back to TF
   # Anemia:  Likely anemia of chronic disease.  No obvious source of
   bleeding, but pt. is coagulopathic with DIC picture.  Coffee grounds
   aspirated from NGT. Appropriate increase to 1unit blood.
   - Repeat Hct in am
   - Check DIC and hemolysis labs
   - PPI [**Hospital1 7**] IV
   # Thrombocytopenia/Coagulopathy:  Low platelets, elevated PT/PTT/INR.
   Possible DIC picture
   - as above follow up DIC labs
   - smear
   # Transaminitis:  According to OSH record, pt. had US on [**3-5**] showing
   GB wall thickening, sludge, and thickened distal CBD, however no
   further treatment was pursued due to lack of symptoms of cholangitis.
   - LFTs here are within normal limits - trend LFTs
   - consider repeat US if elevated
   # DM:
   - continue ISS, add glargine if uncontrolled
   #ectopy. Appears to have 11 beat run of VT on tele
   - Patient now on neosynephrine.
   # Goals of Care:  Per OSH records, multiple attempts at family meetings
   to discuss goals of care have been made.  It has been felt by other
   providers and facilities that the patient has been suffering a great
   deal.  Renal team at [**Hospital1 880**] did not feel he was a dialysis
   candidate.  According to [**Hospital3 140**] records, they had attempted to
   include other family members in goals of care discussion, however his
   daughter would not allow this.  Thus, he has remained full code.
   - Palliative care/Ethics consult after discussion with daughter
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-3-7**] 08:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-03-11 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events.
   Allergies:
   Gabapentin
   Unknown;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Unknown;
   Meclizine
   Unknown;
   Olanzapine
   Unknown;
   Tobramycin
   Unknown;
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2111-3-8**] 07:30 PM
   Vancomycin - [**2111-3-9**] 06:30 PM
   Cefipime - [**2111-3-10**] 12:00 PM
   Ciprofloxacin - [**2111-3-10**] 04:57 PM
   Metronidazole - [**2111-3-10**] 11:58 PM
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-3-10**] 12:00 PM
   Fentanyl - [**2111-3-10**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 89 (88 - 106) bpm
   BP: 86/46(57) {81/30(45) - 113/58(69)} mmHg
   RR: 20 (17 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 4 (-9 - 180)mmHg
   Total In:
                                                                  1,934 mL
                                                                  1,401 mL
   PO:
   TF:
   IVF:
                                                                  1,934 mL
                                                                  1,401 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                    205 mL
   Urine:
                                                                     30 mL
                                                                      5 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,904 mL
                                                                  1,196 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///15/
   Ve: 10 L/min
   Physical Examination
   Gen: Unresponsive to verbal/painful stimuli
   HEENT: PERRLA 3mm
2mm. Minimal blood draining from mouth.
   Pulm: diffuse inspiratory/expiratory rhonchi bilaterally
   CVS: Irregularly Irregular. Normal S1 and S2
   Abd: Soft, minimal distension.  Foley in place; foley inserted into LUQ
   as well.
   Ext: No c/c/e
   Labs / Radiology
   113 K/uL
   8.1 g/dL
   86 mg/dL
   3.7 mg/dL
   15 mEq/L
   3.8 mEq/L
   130 mg/dL
   100 mEq/L
   136 mEq/L
   24.0 %
   21.8 K/uL
        [image002.jpg]
                             [**2111-3-7**]  08:22 PM
                             [**2111-3-8**]  04:13 AM
                             [**2111-3-8**]  10:03 AM
                             [**2111-3-8**]  02:55 PM
                             [**2111-3-8**]  11:04 PM
                             [**2111-3-9**]  03:37 AM
                             [**2111-3-9**]  04:25 PM
                             [**2111-3-10**]  03:22 AM
                             [**2111-3-11**]  03:02 AM
   WBC
   15.6
   15.0
   16.5
   14.7
   18.2
   17.3
   21.8
   Hct
   23.0
   22.4
   22.3
   26.2
   25.8
   27.9
   26.0
   24.0
   Plt
   50
   64
   67
   71
   70
   70
   113
   Cr
   3.2
   3.1
   3.1
   3.3
   3.3
   3.5
   3.7
   TropT
   0.26
   0.27
   TCO2
   19
   Glucose
   78
   109
   46
   59
   72
   86
   Other labs: PT / PTT / INR:35.5/74.6/3.6, CK / CKMB /
   Troponin-T:10//0.27, ALT / AST:[**7-20**], Alk Phos / T Bili:109/0.3, Amylase
   / Lipase:/16, Differential-Neuts:86.5 %, Lymph:7.2 %, Mono:4.7 %,
   Eos:1.1 %, Fibrinogen:269 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:1.4
   g/dL, LDH:165 IU/L, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   70 yom with TBI, CVA, s/p trach who was transferred from [**Hospital1 880**] with
   VAP, UTI, bacteremia, ARF.
   #  Sepsis:  Pt. has/had baceteremia, PNA, and UTI.  Pt. transferred on
   zosyn and aztreonam.  He had completed a 7 day course of vancomycin.
   Per OSH records now on Day 9 of Zosyn and Day 6 of aztreonam.
   Antibiotic regimen unclear, however seems like short duration of
   antibiotics to treat bacteremia.  CXR concerning for infiltrate v.
   fluid overload.
   - continue vancomycin 1gm IV x 1, then dose 1gm IV for vancomycin level
   less than 15.
   - f/u daily vancomycin level
   - Appreciate ID recommendations.
   - continue on vancomycin, ciproflox, cefepime, and flagyl.
   - f/u blood cultures (NGTD)
   - CXR
   - f/u UA/Ucx (prelim coag + staph aureus)
   - f/u sputum culture (prelim pseudomonas)
   # Respiratory Failure:  In terms of chronicity on ventilator, appears
   to be trached and vent dependent. Pt s/p 2 trach changes now with
   decreased leak around trach.  Pt. on CMV with FiO2 of 60%.  Respiratory
   failure likely due to PNA and sepsis.  ARF and fluid retention may also
   be contributing to this.  Fluid status in the setting of albumin <1 is
   difficult to treat.  Would not necessarily benefit from fluid resusc.
   [**Month (only) 51**] require dialysis.
   - OSH records
   - Repeat CXR
   #  Acute Renal Failure:  Cr is 3.7 today with baseline in low 2s.
   Renal US at OSH showed small renal stone, no hydronephrosis.  Evaluated
   by renal at [**Hospital1 880**] and not thought to be a dialysis candidate.  As a
   result he was transferred here at request of his daughter. Renal
   service recommends no renal replacement therapy under any
   circumstances. UOP has trailed off to nothing today.
   - follow UOP (now anuric), CVP 4-5 will fluid bolus 500cc NS
   - f/u UCx
   - Will define plan of care with patient/family
   # Atrial Fibrillation:  Appears to be in new A. Fib with HR of
   80s-90s.  Had been on metoprolol at rehab facility, however BP here
   will not tolerate beta blocker.  Possible triggers for A. Fib include
   CHF.  Currently in sinus rhythm.
   - Could consider 5 mg (MRx 1) diltiazem if rapid A. Fib with fluid
   bolus
   - If SBP< 90, dig load v. amio
   # Anion Gap Metabolic Acidosis: Lactate had been normal at OSH.
   Possible etiologies include uremia and possible starvation ketosis.
   - repeat lactate in am
   # Decubitus Ulcers:  Pt. has multiple decubiti which have been treated
   with aquacel.  Per OSH note, concern for R foot osteo, seen by podiatry
   and just kept on aquacel with bedside debridement. Was not considered
   an operative candidate.
   - Continue with wound care consult recommendations
   #  Gastroparesis/Vomiting:  Pt. was on TF at [**Hospital1 **], but experienced
   gastroparesis and abdominal distention at OSH. Per daughter, he did
   better when he was on Zofran as opposed to reglan in the past.  As a
   result he was started on TPN at OSH
   - J tube to gravity, check residuals
 discuss with GI again for PEG
   placement
   - consider switch back to TF
   # Anemia:  Likely anemia of chronic disease.  No obvious source of
   bleeding, but pt. is coagulopathic with DIC picture.  Coffee grounds
   aspirated from NGT. HCT downtrending with HCT 24 this morning.
   - Repeat Hct this afternoon; Transfuse for HCT < 22
   - Check DIC and hemolysis labs
   - PPI [**Hospital1 7**] IV
   # Thrombocytopenia/Coagulopathy:  Low platelets, elevated PT/PTT/INR.
   Possible DIC picture
   - as above follow up DIC labs
   # Transaminitis:  According to OSH record, pt. had US on [**3-5**] showing
   GB wall thickening, sludge, and thickened distal CBD, however no
   further treatment was pursued due to lack of symptoms of cholangitis.
   - LFTs here are within normal limits and have been since admission.  No
   need to continue to trend.
   # DM:
   - continue ISS, add glargine if uncontrolled
   #ectopy. Appears to have 11 beat run of VT on tele
   - Patient now on neosynephrine.
   # Goals of Care:  Continued discussion with daughter.
   FEN: Boluses, replete electrolytes, reconsult Nutrition for TF
   recommendations
   Code Status: Full Code, consider No CPR indicated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-3-7**] 08:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-03-12 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2111-3-11**]
   Code status changed to DNR/DNI after discussion with patient's
   daughter. [**Name (NI) **] plan for Abx, fluids, any measures to promote
   patient's comfort. SBPs dropped to 70s overnight while maxed on neo so
   additional pressors started.  Currently on neo, vasopressin, and
   phenylephrine.
   Allergies:
   Gabapentin
   Unknown;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Unknown;
   Meclizine
   Unknown;
   Olanzapine
   Unknown;
   Tobramycin
   Unknown;
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-3-9**] 06:30 PM
   Cefipime - [**2111-3-10**] 12:00 PM
   Ciprofloxacin - [**2111-3-10**] 04:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-3-12**] 12:19 AM
   Metronidazole - [**2111-3-12**] 12:19 AM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-3-12**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 126 (82 - 126) bpm
   BP: 79/46(55) {79/25(43) - 107/59(69)} mmHg
   RR: 25 (20 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
    CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  4,254 mL
                                                                    715 mL
   PO:
   TF:
   IVF:
                                                                  4,234 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
                                                                    360 mL
   Stool:
   Drains:
   Balance:
                                                                  3,879 mL
                                                                    715 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: ///20/
   Ve: 7.7 L/min
   Physical Examination
   General: pt. staring off, NAD
   HEENT: Sclera anicteric, Trach in place, NGT in place,
   Neck: JVP not elevated, no LAD
   Lungs: coarse/rhonchorus to auscultation bilaterally
   CV: irregularly irregular
   Abdomen:  soft, non-tender, non-distended, bowel sounds hypoactive, J
   tube in place
   Ext: pulses intact,  pt. has multiple decubitus ulcers over extremities
   and back, stage 4
   Labs / Radiology
   88 K/uL
   7.1 g/dL
   119 mg/dL
   3.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   128 mg/dL
   96 mEq/L
   135 mEq/L
   21.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2111-3-7**]  08:22 PM
                             [**2111-3-8**]  04:13 AM
                             [**2111-3-8**]  10:03 AM
                             [**2111-3-8**]  02:55 PM
                             [**2111-3-8**]  11:04 PM
                             [**2111-3-9**]  03:37 AM
                             [**2111-3-9**]  04:25 PM
                             [**2111-3-10**]  03:22 AM
                             [**2111-3-11**]  03:02 AM
                             [**2111-3-12**]  05:17 AM
   WBC
   15.6
   15.0
   16.5
   14.7
   18.2
   17.3
   21.8
   17.6
   Hct
   23.0
   22.4
   22.3
   26.2
   25.8
   27.9
   26.0
   24.0
   21.2
   Plt
   50
   64
   67
   71
   70
   70
   113
   88
   Cr
   3.2
   3.1
   3.1
   3.3
   3.3
   3.5
   3.7
   3.6
   TropT
   0.26
   0.27
   TCO2
   19
   Glucose
   78
   109
   46
   59
   72
   86
   119
   Other labs: PT / PTT / INR:47.0/90.5/5.1, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:7.0 mg/dL
   Vanc: 32.2
   No CXR
   Assessment and Plan
   70 yom with TBI, CVA, s/p trach who was transferred from [**Hospital1 880**] with
   VAP, UTI, bacteremia, ARF.
   # Respiratory Failure:  In terms of chronicity on ventilator, appears
   to be trached and vent dependent. Pt s/p 2 trach changes now with
   decreased leak around trach.  Pt. on CMV with FiO2 of 60%.  Respiratory
   failure likely due to PNA and sepsis.  ARF and fluid retention may also
   be contributing to this.  Fluid status in the setting of albumin <1 is
   difficult to treat.  Would not necessarily benefit from fluid
   resuscitation.
   - OSH records
   - Repeat CXR
   #  Sepsis:  Pt. has/had bacteremia, PNA, and UTI.  Pt. transferred on
   zosyn and aztreonam.  He had completed a 7 day course of vancomycin.
   Per OSH records now on Day 9 of Zosyn and Day 6 of aztreonam.
   Antibiotic regimen unclear, however seems like short duration of
   antibiotics to treat bacteremia.  CXR concerning for infiltrate v.
   fluid overload.
   - continue vancomycin 1gm IV x 1, then dose 1gm IV for vancomycin level
   less than 15.
   - f/u daily vancomycin level
   - Appreciate ID recommendations.
   - continue on vancomycin, ciproflox, cefepime, and flagyl.
   - f/u blood cultures (NGTD)
   - CXR daily
   - f/u UA/Ucx (prelim coag + staph aureus)
   - f/u sputum culture (prelim pseudomonas)
   #  Acute Renal Failure:  Cr is 3.7 today with baseline in low 2s.
   Renal US at OSH showed small renal stone, no hydronephrosis.  Evaluated
   by renal at [**Hospital1 880**] and not thought to be a dialysis candidate.  As a
   result he was transferred here at request of his daughter. Renal
   service recommends no renal replacement therapy under any
   circumstances, which has been communicated to family. UOP has trailed
   off to nothing today.
   - follow UOP (now anuric), CVP 4-5 will fluid bolus 500cc NS
   - f/u UCx
   - Will define plan of care with patient/family
   # Atrial Fibrillation:  Appears to be in new A. Fib with HR of
   80s-90s.  Had been on metoprolol at rehab facility, however BP here
   will not tolerate beta blocker.  Possible triggers for A. Fib include
   CHF.  Currently in sinus rhythm.
   - Could consider 5 mg (MRx 1) diltiazem if rapid A. Fib with fluid
   bolus
   - If SBP< 90, dig load v. amio
   # Anion Gap Metabolic Acidosis: Lactate had been normal at OSH.
   Possible etiologies include uremia and possible starvation ketosis.
   - 2 amps of bicarb
   # Decubitus Ulcers:  Pt. has multiple decubiti which have been treated
   with aquacel.  Per OSH note, concern for R foot osteo, seen by podiatry
   and just kept on aquacel with bedside debridement. Was not considered
   an operative candidate.
   - Continue with wound care consult recommendations
   # Gastroparesis/Vomiting:  Pt. was on TF at [**Hospital1 **], but experienced
   gastroparesis and abdominal distention at OSH. Per daughter, he did
   better when he was on Zofran as opposed to reglan in the past.  As a
   result he was started on TPN at OSH
   - J tube to gravity, check residuals
   - consider switch back to TF
   # Anemia:  Likely anemia of chronic disease.  No obvious source of
   bleeding, but pt. is coagulopathic with DIC picture.  Coffee grounds
   aspirated from NGT. HCT downtrending with HCT 24 this morning.
   - Repeat Hct this afternoon; Transfuse for HCT < 22
   - Check DIC and hemolysis labs
   - PPI [**Hospital1 7**] IV
   # Thrombocytopenia/Coagulopathy:  Low platelets, elevated PT/PTT/INR.
   Possible DIC picture
   - as above follow up DIC labs
   # Transaminitis:  According to OSH record, pt. had US on [**3-5**] showing
   GB wall thickening, sludge, and thickened distal CBD, however no
   further treatment was pursued due to lack of symptoms of cholangitis.
   - LFTs here are within normal limits and have been since admission.  No
   need to continue to trend.
   # DM:
   - continue ISS, add glargine if uncontrolled
   #ectopy. Appears to have 11 beat run of VT on tele
   - Patient now on neosynephrine.
   # Goals of Care:  Continued discussion with daughter.
   FEN: Boluses, replete electrolytes, reconsult Nutrition for TF
   recommendations
   Code Status: Full Code, consider No CPR indicated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-3-7**] 08:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-03-13 01:32:00 Physician Resident Progress Note
EVENT NOTE:
   The patient, being monitored on telemetry, was noted to be in asystole.
   I evaluated the patient. I auscultated the precordium for one minute
   and there were no heartbeats. There were no palpable pulses. There were
   no spontaneous respirations. There was no corneal reflex. The patient
   was pronounced dead at 1:10AM.  The MICU attending was notified.
   Allergies:
   Gabapentin
   Unknown;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Unknown;
   Meclizine
   Unknown;
   Olanzapine
   Unknown;
   Tobramycin
   Unknown;
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2111-3-10**] 12:00 PM
   Ciprofloxacin - [**2111-3-10**] 04:57 PM
   Metronidazole - [**2111-3-13**] 12:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-3-13**] 12:35 AM
   Infusions:
   Other ICU medications:
   Other medications: